US05589502
To a solution of 68.2 g of potassium ferricyanide and 28.6 g of potassium carbonate in 640 ml of tert-butanol-water (1:1) is added 0.537 g of 1,4-bis(9-O-dihydroquinidyl)phthalazine. The pH of the reaction mixture is adjusted to pH 10.9 with aqueous solution of phosphoric acid. After a solution of osmium tetroxide in 0.35 ml of toluene (0.393M) is added to the mixture, the resulting mixture is stirred at room temperature for 30 minutes. Then, methyl trans-3-cyclopropylacrylate is added to the mixture, and the mixture is stirred for 24 hours. After the reaction mixture is cooled with ice, 106 g of sodium sulfite is added to the mixture. Then, the mixture is stirred for 30 minutes. The mixture is extracted with ethyl acetate four times. The organic layer is dried and the solvent is removed in vacuo. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=3:l) to give 4.22 g of methyl (2S,3R)-3-cyclopropyl--2,3-dihydroxypropionate.

reactant | potassium carbonate | 28.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | methyl trans-3-cyclopropylacrylate | C1(CC1)/C=C/C(=O)OC | C7H10O2
reactant | sodium sulfite | 106 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol water | 640 ml | C(C)(C)(C)O.O
solvent | toluene | 0.393M, 0.35 ml | C1(=CC=CC=C1)C | C7H8
catalyst | potassium ferricyanide | 68.2 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | methyl (2S,3R)-3-cyclopropyl--2,3-dihydroxypropionate | 4.22 g, Yield: 38% | C1(CC1)[C@H]([C@@H](C(=O)OC)O)O | C7H12O4
